********************************************************************************
*	@author		ViKo
*	@date		2016.10
*	@brief		Diodes spice models
*	@note		place link to folder in control settings LTspice
*
*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved                   *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 19-04-2006                        *
*                                                   *
* POWER MOSFET Model (level 3)                      *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************

* MODELLING FOR STB60NH02LT4 ***************************************************
 
.SUBCKT STB60NH02LT4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.098
RS 9 12 0.381E-02
RD 7 6  0.384E-02
RJ 8 7  0.469E-05
CGS 5 9   0.169E-08
CGD 7 10  0.919E-09
CK  11 7  0.257E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.319E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 1.661
+ PHI   = 1.021
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.352E-01
+ KP    = 67.261
+ ETA   = 0.699E-02
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.213E-10
+ VJ    = 0.758
+ M     = 0.337
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.193E-10
+ VJ    = 0.749
+ M     = 0.341
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 27
+ N     = 1
+ TT    = 0.321E-07
+ RS    = 0.469E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 37
.ENDS STB60NH02LT4

* END OF MODELLING


* MODELLING FOR STB60NF10T4 ****************************************************
 
.SUBCKT STB60NF10T4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.499
RS 9 12 0.809E-04
RD 7 6  0.575E-02
RJ 8 7  0.121E-04
CGS 5 9   0.423E-08
CGD 7 10  0.476E-08
CK  11 7  0.322E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.499
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 3.006
+ PHI   = 0.806
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.439
+ KP    = 99.632
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.282E-10
+ VJ    = 0.799
+ M     = 0.332
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.663E-11
+ VJ    = 0.722
+ M     = 0.358
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 115
+ N     = 1
+ TT    = 0.919E-06
+ RS    = 0.589E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 125
.ENDS STB60NF10T4

* END OF MODELLING