********************************************************************************
*	@author		ViKo
*	@date		2016 - 2022
*	@brief		MOSFETs spice models
*	@note		place link to folder in control settings LTspice
********************************************************************************
*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved                   *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 19-04-2006                        *
*                                                   *
* POWER MOSFET Model (level 3)                      *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************

* MODELLING FOR STB60NH02LT4 ___________________________________________________
 
.SUBCKT STB60NH02LT4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.098
RS 9 12 0.381E-02
RD 7 6  0.384E-02
RJ 8 7  0.469E-05
CGS 5 9   0.169E-08
CGD 7 10  0.919E-09
CK  11 7  0.257E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.319E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 1.661
+ PHI   = 1.021
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.352E-01
+ KP    = 67.261
+ ETA   = 0.699E-02
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.213E-10
+ VJ    = 0.758
+ M     = 0.337
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.193E-10
+ VJ    = 0.749
+ M     = 0.341
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 27
+ N     = 1
+ TT    = 0.321E-07
+ RS    = 0.469E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 37
.ENDS STB60NH02LT4

* END OF MODELLING


* MODELLING FOR STB60NF10T4 ____________________________________________________
 
.SUBCKT STB60NF10T4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.499
RS 9 12 0.809E-04
RD 7 6  0.575E-02
RJ 8 7  0.121E-04
CGS 5 9   0.423E-08
CGD 7 10  0.476E-08
CK  11 7  0.322E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.499
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 3.006
+ PHI   = 0.806
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.439
+ KP    = 99.632
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.282E-10
+ VJ    = 0.799
+ M     = 0.332
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.663E-11
+ VJ    = 0.722
+ M     = 0.358
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 115
+ N     = 1
+ TT    = 0.919E-06
+ RS    = 0.589E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 125
.ENDS STB60NF10T4

* END OF MODELLING


********************************************************************************
*	DIODES INCORPORATED
*	https://www.diodes.com/products/discrete/mosfets/mosfet-master-table/#collection-8360=~(Polarity~(~'P)~VGS*20*28th*29*20Max~(~0.7~1.6)~Packages~(~'SOT23~'SOT23*20*28Standard*29~'SOT23F))
********************************************************************************

**  DMG2301LK Spice Model  _____________________________________________________
*   TERMINALS:  D  G  S
.SUBCKT DMG2301LK 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.08416 
RS 30 3 0.001 
RG 20 2 40.9 
CGS 2 3 1.265E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 1.85E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 6.629 KAPPA = 19.32 VTO = -0.6459 
.MODEL DCGD D CJO = 1.177E-010 VJ = 0.611 M = 0.6 
.MODEL DSUB D IS = 0.0001419 N = 4.041 RS = 7.253E-009 BV = 22 CJO = 2.853E-011 VJ = 0.7195 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMG2301LK Spice Model v1.0M Last Revised 2016/4/28


**  DMG2301L Spice Model  ______________________________________________________
*   TERMINALS:  D  G  S
.SUBCKT DMG2301L 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.08416 
RS 30 3 0.001 
RG 20 2 40.9 
CGS 2 3 1.265E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 1.85E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 6.629 KAPPA = 19.32 VTO = -0.6459 
.MODEL DCGD D CJO = 1.177E-010 VJ = 0.611 M = 0.6 
.MODEL DSUB D IS = 0.0001419 N = 4.041 RS = 7.253E-009 BV = 22 CJO = 2.853E-011 VJ = 0.7195 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMG2301L Spice Model v1.0M Last Revised 2018/2/1


**  DMG2305UX Spice Model  _____________________________________________________
**  TERMINALS:  D  G  S
.SUBCKT DMG2305UX 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02969 
RS 30 3 0.001 
RG 20 2 15.2 
CGS 2 3 7.613E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 1.28E-009 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 26.49 KAPPA = 65.74 VTO = -0.8201 
.MODEL DCGD D CJO = 5.79E-010 VJ = 0.2973 M = 0.5774 
.MODEL DSUB D IS = 3.162E-009 N = 1.241 RS = 0.08353 BV = 1E+006 CJO = 5.653E-011 VJ = 0.008286 M = 0.1128 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMG2305UX Spice Model v1.0 Last Revised 2013/10/22


**  DMG2305UXQ Spice Model  ____________________________________________________
*   TERMINALS:  D  G  S
.SUBCKT DMG2305UXQ 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02969 
RS 30 3 0.001 
RG 20 2 15.2 
CGS 2 3 7.613E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 1.28E-009 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 26.49 KAPPA = 65.74 VTO = -0.8201 
.MODEL DCGD D CJO = 5.79E-010 VJ = 0.2973 M = 0.5774 
.MODEL DSUB D IS = 3.162E-009 N = 1.241 RS = 0.08353 BV = 1E+006 CJO = 5.653E-011 VJ = 0.008286 M = 0.1128 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMG2305UXQ Spice Model v1.0 Last Revised 2018/2/1


**  DMP2305U Spice Model  ______________________________________________________
*   TERMINALS:  D  G  S
.SUBCKT DMP2305U 10 20 30
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.03653 
RS 30 3 0.001 
RG 20 2 23 
CGS 2 3 6.954E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 8.85E-010 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1.385E+005  ETA = 0.001 
+ TOX = 6E-008  NSUB = 1E+016  KP = 24.44  KAPPA = 0.8442  VTO = -0.8978 
.MODEL DCGD D  CJO = 3.468E-010  VJ = 0.2064  M = 0.3945 
.MODEL DSUB D  IS = 4.536E-009  N = 1.339  RS = 0.05752  BV = 30  CJO = 2.406E-011  VJ = 1.677E-012  M = 0.8 
.MODEL DLIM D  IS = 0.0001 
.ENDS
* Diodes DMP2305U Spice Model v1.0 Last Revised 2011/6/20


**  DMP2065U Spice Model  ______________________________________________________
*   TERMINALS:  D  G  S
.SUBCKT  DMP2065U 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02969 
RS 30 3 0.001 
RG 20 2 15.2 
CGS 2 3 7.613E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 1.28E-009 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 26.49 KAPPA = 65.74 VTO = -0.8201 
.MODEL DCGD D CJO = 5.79E-010 VJ = 0.2973 M = 0.5774 
.MODEL DSUB D IS = 3.162E-009 N = 1.241 RS = 0.08353 BV = 1E+006 CJO = 5.653E-011 VJ = 0.008286 M = 0.1128 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMP2065U Spice Model v1.0 Last Revised 2020/2/1


**  DMG3413L Spice Model  ______________________________________________________
.SUBCKT DMG3413L 10 20 30 
*   TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.04181 
RS 30 3 0.001 
RG 20 2 12.29 
CGS 2 3 3.719E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 1.46E-009 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1E+006  ETA = 0.001 
+ TOX = 6E-008  NSUB = 1E+016  KP = 9.397  KAPPA = 9.681  VTO = -1.023 
.MODEL DCGD D  CJO = 3.903E-010  VJ = 0.2566  M = 0.45 
.MODEL DSUB D  IS = 2.936E-009  N = 1.327  RS = 0.07557  BV = 33  CJO = 1.598E-010  VJ = 0.4699  M = 0.5274 
.MODEL DLIM D  IS = 0.0001 
.ENDS
* Diodes DMG3413L Spice Model v1.0 Last Revised 2015/6/4


********************************************************************************
*	Alpha & Omega Semiconductor
*	http://www.aosmd.com/products/p-ch-mosfets
********************************************************************************

.SUBCKT	AO3413	4 1 2							
.param Ascale=		0.418							
*** Ascale used to scale the active area of the mosfet.It could be any positive data	
M1  3 5 2 2 PMOS W={	Ascale*	0.9375	}	L=	0.000002		
M2  2 5 2 3 NMOS W={	Ascale*	0.9375	}	L=	0.0000031		
R1 4 3 RTEMP {	0.026	/	Ascale	}				
RG 1 5 	12								
CGS 5 2	{	1E-12	*	Ascale	}				
DBD 3 2     DBD									


.MODEL  PMOS       PMOS  (LEVEL  = 3 									
+ TOX    = 		1.50E-08							
+ NSUB   = 		5E+15							
+ VTO=		-0.7							
+ THETA  = 		0							
+ kp= 		7.15E-05							
+ TPG=1  )									
									
.MODEL  NMOS       NMOS  (LEVEL  = 3 									
+ TOX    = 		1.5E-07							
+ NSUB   = 		2.0E+15							
 +TPG=-1  )									

.MODEL DBD D (CJO={			Ascale	*	2.1E-10	}			
+ VJ= 	0.7								
+ M= 	0.5								
+ RS= 	{0.007/	Ascale	}						
+ IS= {AScale*		4.0E-12	}						
+ TT= 	8.00E-09								
+ BV= 	35								
+ IBV= 	0.00025	)							

.MODEL RTEMP RES (TC1=3E-3)									

.ENDS

